US07550459B2
4-[3-(3-Cyclopropylmethoxy-8-aza-bicyclo[3.2.1]oct-8-yl)-propyl]-8-ethyl-4H-benzo[1,4 ]oxazin-3-one (00264438)
A 7 ml vial was charged with 4-(3-chloropropyl)-8-ethyl-4H-benzo[1,4]oxazin-3-one (0.21 g, 0.83 mmol), 3-cyclopropylmethoxy-8-aza-bicyclo[3,2,1]octane (0.16 g, 0.87 mmol), K2CO3 (0.23 g, 1.7 mmol), acetonitrile (4 ml) a shaken at 60° C. for 90 hours The reaction mixture was evaporated to dryness and purified by prep TLC (SiO2; heptanes/EtOAc 1:1) followed by Prep HPLC to give the title compound (0.068 g, 20.5%). 1H NMR (CDCl3) 1H NMR (CDCl3) d 7.05-6.84 (m, 3H), 4.56 (s, 2H), 4.04-3.98 (m, 2H), 3.53-3.49 (m, 1H), 3.19-3.11 (m, 4H), 2.67-2.59 (m,2H), 2.42-2.37 (m, 2H), 2.07-1.74 (m, 1OH), 1.21-1.15 (m, 3H), 1.06-0.93 (m, 1H), 0.51-0.44 (m, 2H), 0.21-0.14 (m, 2H); 13C NMR (CDCl3) d 164.60, 143.25, 133.02, 128.66, 123.99, 122.32, 113.20, 72.78, 72.23, 67.74, 58.59, 49.56, 39.83, 35.73, 26.45, 26.17, 23.03, 14.50, 11.04, 2.94.

reactant | 4-(3-chloropropyl)-8-ethyl-4H-benzo[1,4]oxazin-3-one | 0.83 mmol, 0.21 g | ClCCCN1C(COC2=C1C=CC=C2CC)=O | C13H16ClNO2
reactant | 3-cyclopropylmethoxy-8-aza-bicyclo[3,2,1]octane | 0.87 mmol, 0.16 g | C1(CC1)COC1CC2CCC(C1)N2 | C11H19NO
reactant | K2CO3 | 1.7 mmol, 0.23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 4-[3-(3-Cyclopropylmethoxy-8-aza-bicyclo[3.2.1]oct-8-yl)-propyl]-8-ethyl-4H-benzo[1,4 ]oxazin-3-one | 0.068 g, 20.5% | C1(CC1)COC1CC2CCC(C1)N2CCCN2C(COC1=C2C=CC=C1CC)=O | C24H34N2O3
